US04923881
A mixture of 4-(tert-butyldimethylsilyl)oxy-1-indanone (524 mg), 1-iodobutane (0.91 ml), and potassium tert-butoxide (896 mg) in dry benzene (15 ml) was refluxed for 2 hours under nitrogen. The reaction mixture was allowed to cool and poured into water. The separated oil was extracted with ethyl acetate. The organic layer was washed with brine, and concentrated in vacuo. The residue was subjected to column-chromatography on silica gel (elution by 10% n-hexane in dichloromethane and then dichloromethane) to yield 2,2-dibutyl-4-hydroxy-1-indanone (150 mg) as crystals. mp 114°-115° C. IR (CHCl3) 3300, 2950, 2930, 2855, 1695, 1595 cm-1. NMR (CDCl3, δ): 0.84 (6H, t, J=7 Hz), 0.95-1.35 (8H, m), 1.50-1.75 (4H, m), 2.93 (2H, s), 5.70 (1H, br s), 7.07 (1H, d, J=8 Hz), 7.28 (1H, t, J=8 Hz), 7.36 (1H, d, J=8 Hz).

reactant | 4-(tert-butyldimethylsilyl)oxy-1-indanone | 524 mg | [Si](C)(C)(C(C)(C)C)OC1=C2CCC(C2=CC=C1)=O | C15H22O2Si
reactant | 1-iodobutane | 0.91 ml | ICCCC | C4H9I
reactant | potassium tert-butoxide | 896 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 2,2-dibutyl-4-hydroxy-1-indanone | 150 mg | C(CCC)C1(C(C2=CC=CC(=C2C1)O)=O)CCCC | C17H24O2
